US08580824B2
4,N-Dihydroxy-3-methoxy-5-methyl-benzamidine
The title compound is prepared from commercially available 2-methoxy-6-methyl-phenol in analogy to literature procedures (e.g B. Roth et al. J. Med. Chem. 31 (1988) 122-129; and literature cited for 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine); LC-MS: tR=0.50 min; [M+1]+=197.23.

reactant | 2-methoxy-6-methyl-phenol | COC1=C(C(=CC=C1)C)O | C8H10O2
reactant | 3-ethyl-4,N-dihydroxy-5-methyl-benzamidine | C(C)C=1C=C(C(=N)NO)C=C(C1O)C | C10H14N2O2
product | 4,N-Dihydroxy-3-methoxy-5-methyl-benzamidine | OC1=C(C=C(C(=N)NO)C=C1C)OC | C9H12N2O3
